US06809110B2
In analogy to the procedure described in example 23 b], 1-fluoro-3-(phenylmethoxy)-benzene (for the preparation of 1-fluoro-3-(phenylmethoxy)-benzene see: A. A. Durrani, J. H. P. Tyrnan, J. Chem. Soc., Perkin Trans. 1 1979, 8, 2079-2087) was treated with N-bromosuccinimide in the presence of concentrated sulfuric acid to give 1-bromo-2-fluoro-4-(phenylmethoxy)-benzene as colorless oil.

reactant | 1-fluoro-3-(phenylmethoxy)-benzene | FC1=CC(=CC=C1)OCC1=CC=CC=C1 | C13H11FO
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-bromo-2-fluoro-4-(phenylmethoxy)-benzene | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)F | C13H10BrFO
